US07393873B2
2-Aminobenzophenone (20 mg) was dissolved in 1 mL of methylene chloride and 4-nitrobenzenesulfonyl chloride (34 mg, 1.5 equiv) was added thereto followed by pyridine (16 mL, 2 equiv). After 10 minutes the reaction mixture was oncentrated in vacuo, subjected to flash chromatography (eluting with 0% to 25% EtOAc/hexane) to provide N-(2-benzoylphenyl)-4-nitrobenzenesulfonamide. ESMS, M+H+ found: 383.1.

reactant | 2-Aminobenzophenone | 20 mg | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | 4-nitrobenzenesulfonyl chloride | 34 mg, 1.5 equiv | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | pyridine | 16 mL, 2 equiv | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(2-benzoylphenyl)-4-nitrobenzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C19H14N2O5S
